data/oMe_Silver.jsonl
{"reaction_id": "NR-071_1-C(F)(F)F_2-c1ccccc1_3-C_4-CC_5-c1ccccc1_6-CCCC(C)C_7-CC","name": "Evans-Mislow Rearrangement","level": "medium","reactants_smiles": ["C(C(F)(F)F)(c1ccccc1)=C(C)C(CC)(c1ccccc1)S(=O)(CCCC(C)C)","O(CC)P(O(CC))O(CC)"],"products_smiles": ["OC(C(F)(F)F)(c1ccccc1)C(C)=C(CC)(c1ccccc1)"],"conditions": "P(OR)3","mechnism_text_description": "The reaction proceeds via a [2,3]-sigmatropic rearrangement of the allylic sulfoxide to form an allylic sulfenate ester intermediate. This intermediate is then trapped by a thiophilic reagent, trialkyl phosphite, which attacks the sulfur atom. This attack results in the cleavage of the S-O bond to form an alkoxide. Subsequent protonation of the alkoxide yields the final allylic alcohol product.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "S(CCCC(C)C)OC(C(F)(F)F)(c1ccccc1)C(C)=C(CC)(c1ccccc1)","step_weight": 0,"rationale": "The [2,3]-sigmatropic rearrangement proceeds via a concerted pericyclic pathway, driven by favorable orbital overlap and stabilization of the developing charges through conjugation with the allylic system."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[O-]C(C(F)(F)F)(c1ccccc1)C(C)=C(CC)(c1ccccc1)","step_weight": 0,"rationale": "Trialkyl phosphite, being a strong nucleophile toward soft electrophiles, attacks the sulfur atom, exploiting sulfur’s polarizability and leading to S–O bond cleavage to form a stabilized alkoxide."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(C(F)(F)F)(c1ccccc1)C(C)=C(CC)(c1ccccc1)","step_weight": 0,"rationale": "The alkoxide is protonated under the reaction conditions to yield the neutral allylic alcohol, driven by the thermodynamic stability of the alcohol and the availability of proton sources."}],"description": "The reaction involves a [2,3]-sigmatropic rearrangement of the allylic sulfoxide to generate a sulfenate ester, which is then attacked by trialkyl phosphite at sulfur due to its thiophilicity. This cleavage yields an alkoxide, which is protonated to form the allylic alcohol."}
{"reaction_id": "NG-010_1-F_2-c2ccc(N(C)C)cc2_3-c2cccc(C)c2","name": "Bamford-Stevens Reaction","level": "medium","reactants_smiles": ["C(=NNS(=O)(=O)c1ccc(C)cc1)(C(F)(c2ccc(N(C)C)cc2))(c2cccc(C)c2)"],"products_smiles": ["C(=C(F)(c2ccc(N(C)C)cc2))C(c2cccc(C)c2)"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=N[N-]S(=O)(=O)c1ccc(C)cc1)(C(F)(c2ccc(N(C)C)cc2))(c2cccc(C)c2)","rationale": "Base abstracts a proton alpha to the hydrazone nitrogen, stabilized by resonance into the adjacent imine, making the nitrogen anion more nucleophilic and primed for tosylate elimination."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[N+]=[N-])(C(F)(c2ccc(N(C)C)cc2))(c2cccc(C)c2)","rationale": "The negatively charged nitrogen facilitates expulsion of the tosylate, a good leaving group due to resonance stabilization by the sulfonyl group, forming a diazo species."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C](C(F)(c2ccc(N(C)C)cc2))(c2cccc(C)c2)","rationale": "The diazo compound thermally or base-promotedly loses N₂ gas, a highly stable leaving group, generating an electron-deficient carbene intermediate."},{"step": 4,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=C(F)(c2ccc(N(C)C)cc2))C(c2cccc(C)c2)","rationale": "The carbene undergoes a 1,2-shift of F or c2ccc(N(C)C)cc2 to stabilize the electron-deficient center, forming the more thermodynamically stable alkene via rearrangement."}],"description": "Under basic conditions, the Bamford–Stevens reaction proceeds via deprotonation of the tosylhydrazone, generating an anion that eliminates the tosylate. This forms a diazo intermediate, which loses nitrogen to yield a carbene. A 1,2-shift then rearranges the carbene to the alkene product."}
